US04628057
(3S)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid hydrazide
A mixture of ethyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (4.9 g), hydrazine hydrate (10 ml) and dimethylformamide (50 ml) is allowed to stand at room temperature overnight. The reaction mixture is is distilled under reduced pressure to remove the solvent. The residue is treated with ethyl acetate to give the title compound (3.40 g, 74%) as powder.

reactant | ethyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 4.9 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H16N2O2
reactant | hydrazine hydrate | 10 ml | O.NN
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (3S)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid hydrazide | 3.40 g, 74% | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)NN | C12H14N4O
